*****************************************************************
* NXP PSMN7R8-120ES
*
* Polarity N-Channel
* Ratings 120V/7.900000E-003OHMS/70A
*
* Date Created Fri Dec 21 04:08:36 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R8-120ES DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 120000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00585808351545578 TC=0.0107898929545444,1.98140889206767E-05
RBD 9 4 0.00154373703761567 TC=0.0107898929545444,1.98140889206767E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.86126284777191e-09
RG 1 2 0.760233761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	5980.29
+ -0.5	4991.25
+ -0.2	4257.18
+ -0.1	4235.72
+ 0	3828.0568
+ 0.1	3133.4448
+ 0.2	3129.1292
+ 0.5	2492.7244
+ 1	2025.4136
+ 2	1439.0272
+ 3	1194.3316
+ 4	1048.58648
+ 5	944.04804
+ 6	865.511
+ 8	754.62728
+ 10	681.23812
+ 12	626.16672
+ 15	564.94336
+ 20	494.48364
+ 30	409.89976
+ 50	323.10776
+ 60	297.52456



.MODEL MINT NMOS(Vto=3.91266812364624 Kp=2.285043e+002 Nfs=895000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=120 Ibv=2.500000E-004 Rs=1E-6 Is=5.22406660252801e-12
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=2.6587792e-09 Tt=5.7096e-08)

.ENDS

